US06316505B1
H2NC12H24NHCOO—(C2H4O)104-DMT
1.2 g. of C11F23CONHC12H24NHCOO—(C2H4O)104-DMT were deprotected with 5% trifluoroacetic acid (TFA) in dichloromethane for 5 minutes. After evaporating the solvent the traces of TFA were carefully removed by washing with ether and gel-permeation chromatography on Toyopearl HW-40 at the conditions described in Part C to yield 0.6 g of product:

reactant | C11F23CONHC12H24NHCOO—(C2H4O)104-DMT | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F)C(=O)NCCCCCCCCCCCCNC(=O)OCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOC(C1=CC=C(OC)C=C1)(C1=CC=C(OC)C=C1)C1=CC=CC=C1 | C254H461F23N2O109
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | H2NC12H24NHCOO—(C2H4O)104-DMT | 0.6 g | NCCCCCCCCCCCCNC(=O)OCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOCCOC(C1=CC=C(OC)C=C1)(C1=CC=C(OC)C=C1)C1=CC=CC=C1 | C242H462N2O108
